US04950678
A solution of 5-chloro-3-trifluoromethylpyrazole (190.0 g, 1.11 mol) in 400 ml of methanol is treated with liquid bleach (5.25% NaOCl) for 3 hr. The reaction mixture is then extracted with ether, the combined ether extracts are acidified with HCl (300 ml), washed with brine, dried and concentrated to give 4,5-dichloro-3-trifluoromethylpyrazole, a light yellow solid, m.p. 58°-60° .

reactant | 5-chloro-3-trifluoromethylpyrazole | 1.11 mol, 190.0 g | ClC1=CC(=NN1)C(F)(F)F | C4H2ClF3N2
reactant | NaOCl | [O-]Cl.[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | 4,5-dichloro-3-trifluoromethylpyrazole | ClC=1C(=NNC1Cl)C(F)(F)F | C4HCl2F3N2
